US05468888
A solution of 3.4 g of 17-phthalimidoheptadecanoic acid in 60 cm3 of methanol is stirred for 1 hour, at a temperature in the region of 80° C., in the presence of 1.67 g of hydrazine hydrate. The solution is cooled to around 20° C. and the solid is separated by filtration and dried in air. The residue (1.92 g) is taken up in 180 cm3 of distilled water. The solid is separated by filtration, washed with a total of 45 cm3 of distilled water and dried under reduced pressure (13.5 Pa) at a temperature in the region of 40° C. 980 mg of 17-aminoheptadecanoic acid are obtained in the form of a white solid.

reactant | 17-phthalimidoheptadecanoic acid | 3.4 g | C1(C=2C(C(N1CCCCCCCCCCCCCCCCC(=O)O)=O)=CC=CC2)=O | C25H37NO4
reactant | hydrazine hydrate | 1.67 g | O.NN
solvent | methanol | 60 cm3 | CO | CH4O
product | 17-aminoheptadecanoic acid | 980 mg | NCCCCCCCCCCCCCCCCC(=O)O | C17H35NO2
